US06265349B1
Preparation of 3-(4-chloro-2-fluoro-5-methylsulfamoylphenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 1-71)
To 25 ml of chloroform, 0.6 g (1.5 mmol) of 3-(4-chloro-5-chlorosulfonyl-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone and 1.8 g (26.7 mmol) of methylamine hydrochloride were added, and 6.0 g (59.4 mmol) of triethylamine was dropwise added thereto under cooling with ice, followed by stirring at room temperature for 2 hours. This reaction solution was poured into water and extracted with chloroform. After washing with water and a 10% citric acid aqueous solution, the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 0.4 g (yield:67) of the desired product. Melting point: 150-151° C.

reactant | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 3-(4-chloro-5-chlorosulfonyl-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 1.5 mmol, 0.6 g | ClC1=CC(=C(C=C1S(=O)(=O)Cl)C=1C(N(C(=CC1)C(F)(F)F)C)=O)F | C13H7Cl2F4NO3S
reactant | methylamine hydrochloride | 26.7 mmol, 1.8 g | Cl.CN
reactant | triethylamine | 59.4 mmol, 6.0 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 3-(4-chloro-2-fluoro-5-methylsulfamoylphenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | ClC1=CC(=C(C=C1S(NC)(=O)=O)C=1C(N(C(=CC1)C(F)(F)F)C)=O)F | C14H11ClF4N2O3S
